US05614548
(±)-1-S-hexadecyl-2-O-ethyl-3-O-mesylthioglycerol
This compound was prepared in an analogous manner to that of (±)-1-S-hexadecyl-2-O-methyl-3-O-mesylthioglycerol from 5.5 grams (0.016 mole) of (±)-1-S-hexadecyl-2-O-ethylthioglycerol and 2.2 grams (0.019 mole) of methanesulfonyl chloride. This resulted in 6.2 grams of product (94%) as an oil. 1H-NMR (CDCl3): delta, 0.87(t, 3H, terminal methyl), 1.2-1.6[m, 31H, (CH2)14, CH3 --CH2 --O], 2.58(m, 2H, S--CH2), 2.62(m, 2H, CH--CH2 --S), 3.08(s, 3H, SO2 --CH3), 3.40-3.50(m, 3H, CH, CH3 --CH2 --O), 4.35(m, 2H, CH2 --OSO2).

reactant | (±)-1-S-hexadecyl-2-O-methyl-3-O-mesylthioglycerol | C(CCCCCCCCCCCCCCC)SCC(OC)COS(=O)(=O)C | C21H44O4S2
reactant | (±)-1-S-hexadecyl-2-O-ethylthioglycerol | 0.016 mole, 5.5 grams | C(CCCCCCCCCCCCCCC)SCC(OCC)CO | C21H44O2S
reactant | methanesulfonyl chloride | 0.019 mole, 2.2 grams | CS(=O)(=O)Cl | CH3ClO2S
product | (±)-1-S-hexadecyl-2-O-ethyl-3-O-mesylthioglycerol | 6.2 grams, 94% | C(CCCCCCCCCCCCCCC)SCC(OCC)COS(=O)(=O)C | C22H46O4S2
